US05438140
Preparation of methyl 4-pyridiniumcrotonate bromide
The title compound was prepared as described in Example 1 from pyridine and methyl 4-bromocrotonate in a yield of 71%.

reactant | methyl 4-bromocrotonate | BrC/C=C/C(=O)OC | C5H7BrO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | methyl 4-pyridiniumcrotonate bromide | yield of 71% | [Br-].C(\C=C\C)(=O)[O-].CC1=NC=C[CH2+]=C1.CC1=NC=C[CH2+]=C1 | InChI=1S/2C6H8N.C4H6O2.BrH/c2*1-6-4-2-3-5-7-6;1-2-3-4(5)6;/h2*3-5H,2H2,1H3;2-3H,1H3,(H,5,6);1H/q2*+1;;/p-2/b;;3-2+;
